datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:83][P:72]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21,22;22,23=23"
"C=C(C)CCCC[C:11](C)=[CH2:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>C=C(C)CCCC[C+:11](C)[CH2:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>CC[O:33][C:22](=[CH:21][CH:20]([H:10])[C:41](=[O:42])[O:52]CC)[O-:23].[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:11](=[CH2:10])[NH:12][C:63](C)=[O:64].C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>CC(C)(C)[C:11]([CH2:10][CH:20](C)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)=[NH+:12][C:63](C)=[O:64] 10,11=10,20;12=11,12"
"C[N:82]1[C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[N:82]1[C:71](=[O:72])[C:10]([CH:20]2[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84] 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].CC[O:72][C:61](/[C:10]1=[C:11](\[O-:12])CCCCCCCCCC1)=[O:62]>>CC[O:33][C:22](=[CH:21][CH:20]([C:10]1([C:61](=[O:62])[O:72]CC)CCCCCCCCCC[C:11]1=[O:12])[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10]2([C:11](C)=[O:12])CCC[O:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"ClC1=CC=C([P:10](C2=CC=C(Cl)C=C2)C2=CC=C(Cl)C=C2)C=C1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][P+:10](C1=CC=C(Cl)C=C1)(C1=CC=C(Cl)C=C1)C1=CC=C(Cl)C=C1 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)C(C)=C1.CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2C)(C2=CC=C(C)C=C2C)[CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CNC4=CC=CC=C34)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]3[CH:11]=[NH+:12][C:62]4=[C:61]3[CH:72]=[CH:73][CH:64]=[CH:63]4)[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1 10,11=10,20;12=11,12"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>C[N:21](C)[CH:20]([CH:10]([S+:61](C)C)[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21"
"CO[C:12]1=[C:13]([B-](F)(F)F)[S:14][CH:10]=[CH:11]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:12]1=[CH:11][CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[S+:14]=[C:13]1[B-](F)(F)F 10,11=10,20;12,13=11,12;14=13,14"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.CC[Si:63](CC)(CC)[CH2:62][CH:11]=[CH2:10]>>CC[Si:63](CC)(CC)[CH2:62][CH+:11][CH2:10][CH:20]([CH:21]=[CH:22][N:23]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]2)[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
